US09212135B2
Step B: Ethyl 2-(2-(6-cyclopropylpyridin-3-yl)phenylthio)-2-methylpropanoate
A mixture of 2-(2-bromophenylthio)-2-methylpropanoate (1 eq), 6-cyclopropylpyridin-3-ylboronic acid (1 eq), aqueous sodium carbonate solution (2 M, 4 eq), and Pd(PPh3)4 (0.05 eq) in dioxane is degassed. The mixture is sealed, heated at 80° C., washed with water, extracted with ethyl acetate, dried (MgSO4), concentrated and purified by chromatography.

reactant | 2-(2-bromophenylthio)-2-methylpropanoate | 1 eq | BrC1=C(C=CC=C1)SC(C(=O)[O-])(C)C
reactant | 6-cyclopropylpyridin-3-ylboronic acid | 1 eq | C1(CC1)C1=CC=C(C=N1)B(O)O | C8H10BNO2
reactant | sodium carbonate | 2 M, 4 eq | C([O-])([O-])=O.[Na+].[Na+]
reactant | dioxane | O1CCOCC1 | C4H8O2
catalyst | Pd(PPh3)4 | 0.05 eq | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | Ethyl 2-(2-(6-cyclopropylpyridin-3-yl)phenylthio)-2-methylpropanoate | C1(CC1)C1=CC=C(C=N1)C1=C(C=CC=C1)SC(C(=O)OCC)(C)C | C20H23NO2S
